US07312236B2
2-Bromo-N-(6-(4-dimethylamino-cyclohex-1-enyl)-pyridin-2-yl)-benzamide dihydrochloride salt, isomer 2
Using a method similar to example 1, using 2-bromobenzoyl chloride (151 mg, 0.69 mmol) and 6-(4-dimethylamino-cyclohex-1-enyl)-pyridin-2-ylamine, isomer 2 (preparation 11, 100 mg, 0.46 mmol) provides the free amine of the title compound as an oil (63 mg, 34%): MS (ES): m/z=400 (M+H)+, 403 (M+3); 1H NMR (CD3OD): δ 8.30 (t, 1H), 7.69 (d, 2H), 7.67 (d, 1H), 7.49 (m, 3H), 6.78 (m, 1H), 3.55 (m, 1H), 2.87 (s, 6H), 2.73 (m, 4H), 2.37 (m, 1H), 1.87 (m, 1H). Using a salt formation method similar to that in example 1 gives the dihydrochloride salt.

reactant | 2-bromobenzoyl chloride | 0.69 mmol, 151 mg | BrC1=C(C(=O)Cl)C=CC=C1 | C7H4BrClO
reactant | 6-(4-dimethylamino-cyclohex-1-enyl)-pyridin-2-ylamine | CN(C1CC=C(CC1)C1=CC=CC(=N1)N)C | C13H19N3
product | 2-Bromo-N-(6-(4-dimethylamino-cyclohex-1-enyl)-pyridin-2-yl)-benzamide dihydrochloride salt | 63 mg, 34% | Cl.Cl.BrC1=C(C(=O)NC2=NC(=CC=C2)C2=CCC(CC2)N(C)C)C=CC=C1 | InChI=1S/C20H22BrN3O.2ClH/c1-24(2)15-12-10-14(11-13-15)18-8-5-9-19(22-18)23-20(25)16-6-3-4-7-17(16)21;;/h3-10,15H,11-13H2,1-2H3,(H,22,23,25);2*1H
